US06953806B2
In analogy to the sequence described in examples 17.3 and 17.4, trans-3-[4-(2-methylamino-ethyl)-cyclohexyl]-(E)-prop-2-en-1-ol HCl was reacted with 4-trifluoromethyl-benzene sulfochloride in dichloromethane in the presence of diisopropyl ethyl amine followed by treatment with methane sulfonylchloride and 2,6-lutidine in dichloromethane to yield trans-N-{2-[4-(3-chloro-(E)-propenyl)-cyclohexyl]-ethyl}-N-methyl-4-trifluoromethyl-benzenesulfonamide as colorless viscous oil, MS: 424 (MH+, 1Cl).

reactant | trans-3-[4-(2-methylamino-ethyl)-cyclohexyl]-(E)-prop-2-en-1-ol HCl | Cl.CNCC[C@@H]1CC[C@H](CC1)/C=C/CO
reactant | 4-trifluoromethyl-benzene sulfochloride | S(=O)(=O)(O)Cl.FC(C1=CC=CC=C1)(F)F
reactant | diisopropyl ethyl amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methane sulfonylchloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2,6-lutidine | N1=C(C=CC=C1C)C | C7H9N
solvent | dichloromethane | ClCCl | CH2Cl2
product | trans-N-{2-[4-(3-chloro-(E)-propenyl)-cyclohexyl]-ethyl}-N-methyl-4-trifluoromethyl-benzenesulfonamide | ClC/C=C/[C@@H]1CC[C@H](CC1)CCN(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C19H25ClF3NO2S
